US07452999B2
A mixture of 3-hydroxy-2-methylenehexanoic acid methyl ester (55.37 g, 350 mmol) and DMAP (4.28 g, 35 mmol) in toluene (400 mL) is cooled to 0-5° C. and to it is added acetic anhydride (42.88 g, 420 mmol) dropwise in ˜30 minutes while maintaining the temperature at 0-5° C. The resulting solution is allowed to warm to room temperature in 1 hour. After stirring for 3 hours at RT, the reaction mixture is cooled to 0-5° C. and to it is added 1 N HCl acid (80 mL), in 20 minutes. The organic layer is separated and washed sequentially with water (80 ml), saturated aqueous sodium bicarbonate solution (2×80 mL) and water (80 mL). The organic layer is concentrated on Rotavap under reduced pressure (20 mbar) until no further solvent distills to afford 3-acetoxy-2-methylenehexanoic acid methyl ester (68.39 g, yield: 97.5%) as a colorless liquid.

reactant | 3-hydroxy-2-methylenehexanoic acid methyl ester | 350 mmol, 55.37 g | COC(C(C(CCC)O)=C)=O | C8H14O3
reactant | acetic anhydride | 420 mmol, 42.88 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | HCl | 1 N, 80 mL | Cl | ClH
catalyst | DMAP | 35 mmol, 4.28 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
product | 3-acetoxy-2-methylenehexanoic acid methyl ester | 68.39 g, yield: 97.5% | COC(C(C(CCC)OC(C)=O)=C)=O | C10H16O4
